US05596002
N1 -Allyl-N2 -(7-chloro-quinolin-4-yl)-N1 -methyl-ethane-1,2-diamine
0.56 g from 2.5 g of N-(2-chloroethyl)-7-chloro-4-quinolinamine hydrochloride; colourless crystals from acetonitrile, m.p.: 91°-93° C.

reactant | N-(2-chloroethyl)-7-chloro-4-quinolinamine hydrochloride | 2.5 g | Cl.ClCCNC1=CC=NC2=CC(=CC=C12)Cl
solvent | acetonitrile | C(C)#N | C2H3N
product | N1 -Allyl-N2 -(7-chloro-quinolin-4-yl)-N1 -methyl-ethane-1,2-diamine | C(C=C)N(CCNC1=CC=NC2=CC(=CC=C12)Cl)C | C15H18ClN3
